US05102877
A solution of ethyl (3S)-4-allyloxycarbonylmorpholine-3-carboxylate (5.90 g) in a mixture of ethanol (15 ml) and 4N aqueous sodium hydroxide (15 ml) was stirred at 30°-40° C. for one hour. Ethanol was evaporated to give an aqueous solution. The aqueous solution was adjusted to pH 2 with concentrated hydrochloric acid, extracted with ethyl acetate (100 ml), dried over magnesium sulfate, and evaporated under reduced pressure to give (3S)-4-allyloxycarbonylmorpholine-3-carboxylic acid (5.24 g) as a syrup.

reactant | ethyl (3S)-4-allyloxycarbonylmorpholine-3-carboxylate | 5.90 g | C(C=C)OC(=O)N1[C@@H](COCC1)C(=O)OCC | C11H17NO5
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 4N, 15 ml | [OH-].[Na+]
product | (3S)-4-allyloxycarbonylmorpholine-3-carboxylic acid | 5.24 g | C(C=C)OC(=O)N1[C@@H](COCC1)C(=O)O | C9H13NO5
